US06248756B1
Step A: Preparation of [1-Benzyl-4-(3-methylphenylamino)piperidin-4-ylmethyl]sulfamide
To a cold (5° C.) solution of chlorosulfonyl isocyanate in THF, anhydrous formic acid is added (Journal of Organic Chemistry, vol 54, page 5825,(1989)). The resultant mixture is stirred until gas evolution ceased, and treated with a solution of 1-benzyl-4-(3-methylphenylamino)-4-aminomethylpiperidine in THF. The mixture is stirred at room temp. overnight to provide the title compound.

reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-benzyl-4-(3-methylphenylamino)-4-aminomethylpiperidine | C(C1=CC=CC=C1)N1CCC(CC1)(CN)NC1=CC(=CC=C1)C | C20H27N3
solvent | THF | C1CCOC1 | C4H8O
solvent | formic acid | C(=O)O | CH2O2
product | [1-Benzyl-4-(3-methylphenylamino)piperidin-4-ylmethyl]sulfamide | C(C1=CC=CC=C1)N1CCC(CC1)(NC1=CC(=CC=C1)C)CNS(=O)(=O)N | C20H28N4O2S
